US07329662B2
5-(3-Trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (142 mg, 0.5 mmol), prepared from commercially available 3-trifluoromethyl-acetophenone according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [see part synthesis of amino-pyrazole derivatives] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (108 mg, 51%). MS (ISP) 423.3 [(M+H)+]; mp 232° C.

reactant | 1-(3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 142 mg | FC(C=1C=C(C=CC1)C(CC(C(F)(F)F)=O)=O)(F)F | C11H6F6O2
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 5-(3-Trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 108 mg, 51% | FC(C=1C=C(C=CC1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)C)(F)F | C20H12F6N4
